US06395766B1
Step 2: 6,6-Dimethyl-3-(thiazol-2-yl)-1-(6-(thiazol-2-yl)pyridin-2-yl)-4,5,6,7-tetrahydroindol-4-one
In the same way as described in Example 15, Step 4 using 3-bromo-1-(6-chloropyridin-2-yl)-6,6-dimethyl-1,2,3,4-tetrahydroindol-4-one and 2-tributylstannylthiazole, the title compound (35 mg; 13%) was isolated as a yellow solid. 1H NMR (400 MHz, CDCl3) δ 1.21 (6H,s), 2.55 (2H,s), 3.24 (2H,s) 7.35 (1H,d, J=3.1 Hz), 7.50-7.53 (2H,m), 7.81 (1H,d, J=3.1 Hz), 7.97-8.02 (3H,m), 8.20 (1H,d, J=7.8 Hz). MS (ES+) 407 (M+1).

reactant | 3-bromo-1-(6-chloropyridin-2-yl)-6,6-dimethyl-1,2,3,4-tetrahydroindol-4-one | BrC1CN(C2=CC(CC(C12)=O)(C)C)C1=NC(=CC=C1)Cl | C15H16BrClN2O
reactant | 2-tributylstannylthiazole | C(CCC)[Sn](C=1SC=CN1)(CCCC)CCCC
product | 6,6-Dimethyl-3-(thiazol-2-yl)-1-(6-(thiazol-2-yl)pyridin-2-yl)-4,5,6,7-tetrahydroindol-4-one | 35 mg, 13% | CC1(CC(C=2C(=CN(C2C1)C1=NC(=CC=C1)C=1SC=CN1)C=1SC=CN1)=O)C | C21H18N4OS2
